US08202873B2
Dissolve 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (1.00 g, 3.35 mmol) in N,N-dimethylacetamide (purged with nitrogen) (12 mL). Add potassium carbonate (1.11 g, 8.04 mmol) and 2-trifluoromethylbenzeneboronic acid (764 mg, 4.02 mmol) then purge with nitrogen for 15 min. Add deoxygenated water (6 mL) and tetrakis(triphenylphosphine)palladium(0) (0.039 g, 0.034 mmol) and purge with nitrogen for 15 min. Heat at 115° C. for 21 hr. under nitrogen. Cool to room temperature, add water (20 mL) and extract with DCM (4×20 mL). Concentrate the DCM extracts and purify (silica gel chromatography, eluting with 10:90 to 20:80 ethyl acetate:isohexane), to give 3′-(2-trifluoromethylphenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (408 mg, 29%). MS (ES): m/z=409 [M+H]+.

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 3.35 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | potassium carbonate | 8.04 mmol, 1.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-trifluoromethylbenzeneboronic acid | 4.02 mmol, 764 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | water | 6 mL | O | H2O
solvent | N,N-dimethylacetamide | 12 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.034 mmol, 0.039 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-(2-trifluoromethylphenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 408 mg, 29% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=C(C=CC=C1)C(F)(F)F | C20H23F3N4O2
